US08809333B2
Step A: (2R)-4-(4-cyano-1H-pyrazol-1-yl)-2-methyl-2-(methylsulfonyl)butanoic acid
To a solution of 4-cyanopyrazole (0.150 g, 1.61 mmol, 1 eq) in acetonitrile (10 mL) was added cesium carbonate (1.31 g, 4.03 mmol, 2.5 eq), sodium iodide (0.048 mg, 0.322 mmol, 0.2 eq) and (R)-ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate (0.555 g, 1.93 mmol, 1.2 eq). The mixture was heated at 50° C. overnight. The reaction mixture was cooled to room temperature and was filtered via Buchner funnel, and eluted with EtOAc. The filtrate was concentrated under reduced pressure and was diluted with up in tetrahydrofuran (5 mL) and water (5 mL). Lithium hydroxide (0.116 g, 4.83 mmol, 3 eq) was added, and the reaction mixture was allowed to stir at room temperature for four hours. The reaction mixture was concentrated under reduced pressure, diluted with ethyl acetate (10 mL), and concentrated again. This yielded (2R)-4-(4-cyano-1H-pyrazol-1-yl)-2-methyl-2-(methylsulfonyl)butanoic acid as a yellow oil, which was carried on crude in the next step. LC-MS M+H+272.2.

reactant | 4-cyanopyrazole | 1.61 mmol, 0.150 g, 1 eq | C(#N)C=1C=NNC1 | C4H3N3
reactant | cesium carbonate | 4.03 mmol, 1.31 g, 2.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 0.322 mmol, 0.048 mg, 0.2 eq | [I-].[Na+]
reactant | (R)-ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate | 1.93 mmol, 0.555 g, 1.2 eq | BrCC[C@](C(=O)OCC)(S(=O)(=O)C)C | C8H15BrO4S
reactant | Lithium hydroxide | 4.83 mmol, 0.116 g, 3 eq | [OH-].[Li+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (2R)-4-(4-cyano-1H-pyrazol-1-yl)-2-methyl-2-(methylsulfonyl)butanoic acid | C(#N)C=1C=NN(C1)CC[C@](C(=O)O)(S(=O)(=O)C)C | C10H13N3O4S
